US05994569
Swern reagent was prepared at -70° C. by adding slowly 1.70 ml of abs. DMSO to 0.947 ml of oxalylchloride, dissolved in 27 ml of CH2Cl2. 15 minutes later, 3.43 g of (S)-2-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propan-1-ol (synthesis described in ref. Ex. 12), dissolved in 10 ml of CH2Cl2, were slowly added. After 0.25 h, 4.8 ml of NEt3 were added dropwise and the temperature allowed to reach -30° C. The reaction was quenched by pouring onto crushed ice/NH4Cl, extracted with ether, washed with water and brine, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=97/3) afforded (S)-2-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propionaldehyde as colourless oil.

reactant | DMSO | CS(=O)C | C2H6OS
reactant | oxalylchloride | 0.947 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-2-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propan-1-ol | 3.43 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](CO)C)(C)C | C20H40O2Si
reactant | NEt3 | 4.8 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 27 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propionaldehyde | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](C=O)C)(C)C | C20H38O2Si
